DC Sweep with Resistor Stepping for Xyce

V1 1 0 DC 0V
R1 1 2 1k
R2 2 0 2k
.DC V1 0 5 0.5
.PRINT DC FORMAT=RAW FILE=dc-sweep-with-step-03.raw V(*) I(*)
.STEP R1 LIST 1k 2k 3k
.STEP R2 LIST 2k 4k 6k
.END
